US04003999
An aqueous solution of sodium acetylsalicylate was prepared using 100.0 g. of aspirin, 34.6 g. of sodium carbonate hydrate and 1,425 ml. water at room temperature (25° C.). After solution of all solids had occurred, 30.0 g. of instant tea was added while stirring at room temperature. To the aqueous solution was added with rapid stirring in less than 30 seconds 280 ml. of 2N H2SO4 and stirring was continued for 15 minutes at room temperature. The pH of the reaction after acidification was 3.3. The aqueous slurry was immediately thereafter spray dired in a Nichols portable spray drier (Minor Type 53) using a Nitro atomizer having a rotational speed of 31,000 r.p.m. The operating temperatures were about 165° C. on the inlet side and less 80° C. on the exhaust side. Weight of the spray dried product was 158.5 g. Analysis of the spray dried product containing the coprecipitate showed it contained 55% aspirin, 0.64% salicylic acid and 2.7% water. Tea content of the spray dried product is approximately 18.8%.

reactant | aspirin | CC(=O)OC=1C=CC=CC1C(=O)O | C9H8O4
reactant | sodium carbonate hydrate | O.C([O-])([O-])=O.[Na+].[Na+]
reactant | H2SO4 | 2N | OS(=O)(=O)O | H2O4S
reactant | salicylic acid | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
solvent | water | O | H2O
product | sodium acetylsalicylate | C(C)(=O)OC=1C(C(=O)[O-])=CC=CC1.[Na+] | InChI=1S/C9H8O4.Na/c1-6(10)13-8-5-3-2-4-7(8)9(11)12;/h2-5H,1H3,(H,11,12);/q;+1/p-1
